* SPICE3 file created from shift1v8to5.ext - technology: sky130A

.subckt x5v_nfet_1_6 S G D B
X0 D G S B sky130_fd_pr__nfet_g5v0d10v5 ad=18 pd=18 as=18 ps=18 w=6 l=1
.ends

.subckt x5v_pfet_1_2 B D G S
X0 D G S B sky130_fd_pr__pfet_g5v0d10v5 ad=2 pd=6 as=2 ps=6 w=2 l=1
.ends

.subckt x5v_nfet_1_1 S B G D
X0 D G S B sky130_fd_pr__nfet_g5v0d10v5 ad=1 pd=4 as=1 ps=4 w=1 l=1
.ends

.subckt shift1v8to5 V1v8 VP VN Y X
X5v_nfet_1_6_0 VN X 5v_pfet_1_2_2/D VN x5v_nfet_1_6
X5v_nfet_1_6_1 VN 5v_pfet_1_2_0/D Y VN x5v_nfet_1_6
X5v_pfet_1_2_0 V1v8 5v_pfet_1_2_0/D X V1v8 x5v_pfet_1_2
X5v_pfet_1_2_1 VP Y 5v_pfet_1_2_2/D VP x5v_pfet_1_2
X5v_pfet_1_2_2 VP 5v_pfet_1_2_2/D Y VP x5v_pfet_1_2
X5v_nfet_1_1_0 VN VN X 5v_pfet_1_2_0/D x5v_nfet_1_1
.ends

